US07279469B2
To (6-chloro-pyridin-3-yl)-morpholin-4-yl-methanone (0.649 g, 2.86 mmoles) in ethanol (6 mL) was added 0.270 uL (3.0 equivalents) of hydrazine, followed by triethylamine 438.9 uL (1.1 equivalents). The reaction was stirred overnight at 100° C. to give (6-hydrazino-pyridin-3-yl)-morpholin-4-yl-methanone. The reaction was filtered and then concentrated to dryness. The crude residue, (6-hydrazino-pyridin-3-yl)-morpholin-4-yl-methanone, weighed 0.372 g (76% yield).

reactant | (6-chloro-pyridin-3-yl)-morpholin-4-yl-methanone | 2.86 mmoles, 0.649 g | ClC1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H11ClN2O2
reactant | hydrazine | 0.270 uL, 3.0 equivalents | NN | H4N2
reactant | triethylamine | 438.9 uL, 1.1 equivalents | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | (6-hydrazino-pyridin-3-yl)-morpholin-4-yl-methanone | 76% yield | N(N)C1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H14N4O2
